US07776857B2
Step 4: (7R)-7-Fluoro-octahydropyrrolo[1,2-a]pyrazine
A pressure bottle was charged with (7R)-7-fluoro-hexahydropyrrolo[1,2-a]pyrazine-1,4-dione (200 mg, 1162 μmol) and 4.6 mL THF, and the bottle was purged with nitrogen and cooled to 0° C. Lithium aluminum hydride (2323 μl, 2323 μmol) was added. The mixture was allowed to warm to RT, and was then heated at reflux for 4 h. The reaction was cooled to 0° C. and 1 mL water was added carefully, followed by 1 mL 6N NaOH. The mixture was stirred for 15 min, and was filtered through a pad of Celite, washing with EtOAc. The filtrate was concentrated and a sample was analyzed by H-NMR and GC/MS: [M+H]=145.

reactant | (7R)-7-fluoro-hexahydropyrrolo[1,2-a]pyrazine-1,4-dione | 1162 μmol, 200 mg | F[C@@H]1CC2N(C(CNC2=O)=O)C1 | C7H9FN2O2
reactant | THF | 4.6 mL | C1CCOC1 | C4H8O
reactant | Lithium aluminum hydride | 2323 μmol, 2323 μl | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 6N, 1 mL | [OH-].[Na+]
solvent | water | 1 mL | O | H2O
product | (7R)-7-Fluoro-octahydropyrrolo[1,2-a]pyrazine | F[C@@H]1CC2N(CCNC2)C1 | C7H13FN2
